US08258134B2
A solution of 3-cyclopentyl-2-[4-(methyl-phenyl-amino)-6-oxo-6H-pyridazin-1-yl]-propionic acid methyl ester (66.3 mg, 0.18 mmol) in methanol (0.5 mL, 0.37M) was treated with a 4N aqueous sodium hydroxide solution (0.05 mL, 0.2 mmol) and was stirred at 25° C. overnight. After this time, the reaction was diluted with water (10 mL), acidified with a 1N aqueous hydrochloric acid solution and then was extracted into methylene chloride (3×25 mL). The combined organics were washed with a saturated aqueous sodium chloride solution (1×25 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to afford 3-cyclopentyl-2-[4-(methyl-phenyl-amino)-6-oxo-6H-pyridazin-1-yl]-propionic acid (67.3 mg) as a viscous, yellow oil. This material was used without further purification.

reactant | 3-cyclopentyl-2-[4-(methyl-phenyl-amino)-6-oxo-6H-pyridazin-1-yl]-propionic acid methyl ester | 0.18 mmol, 66.3 mg | COC(C(CC1CCCC1)N1N=CC(=CC1=O)N(C1=CC=CC=C1)C)=O | C20H25N3O3
reactant | sodium hydroxide | 0.2 mmol, 4N, 0.05 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 0.37M, 0.5 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-cyclopentyl-2-[4-(methyl-phenyl-amino)-6-oxo-6H-pyridazin-1-yl]-propionic acid | 67.3 mg | C1(CCCC1)CC(C(=O)O)N1N=CC(=CC1=O)N(C1=CC=CC=C1)C | C19H23N3O3
